US08293774B2
4.0 g (0.022 mol) of (R)-2-(4-hydroxyphenoxy)propionic acid was dissolved in 25 ml of thionyl chloride, the mixture was refluxed for 5 hours, and distilled under a reduced pressure. 3.3 g (0.016 mol) of (R)-2-(4-hydroxyphenoxy)propionic acid chloride thus obtained was dissolved in 60 ml of tetrahydrofuran, and the mixture was cooled to 0° C. 3.04 g (0.018 mol) of 2-amino-5-chlorobenzoxazole and triethylamine dissolved in 15 ml of tetrahydrofuran were sequentially added to the reaction mixture. The mixture was stirred at room temperature for 5 hours, and the solvent was removed therefrom under a reduced pressure. After adding water thereto, the mixture was extracted three times with ethyl acetate three times. The combined organic layer was dried over anhydrous magnesium sulfate, filtered and distilled under a reduced pressure. The resulting residue was subjected to column chromatography (ethyl acetate:n-hexane=1:4) to obtain the title compound (4.04 g, 75.9%).

reactant | (R)-2-(4-hydroxyphenoxy)propionic acid | 0.022 mol, 4.0 g | OC1=CC=C(O[C@@H](C(=O)O)C)C=C1 | C9H10O4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | (R)-2-(4-hydroxyphenoxy)propionic acid chloride | 0.016 mol, 3.3 g | OC1=CC=C(O[C@@H](C(=O)Cl)C)C=C1 | C9H9ClO3
